US05093363
To 1.6 ml of a solution of acetonitrile containing 150 mg (0.409 mmol) of (4R,6S)-6-[[(3,5-di-tert-butyl-4-hydroxyphenyl)thio]methyl]-4-hydroxytetrahydropyrane-2-one was added 0.98 ml of 1N lithium hydroxide with stirring in an atmosphere of argon at -20° C. After 30 minutes thereto was added 3.9 ml of 0.1 M solution of citric acid, and an organic solvent was distilled away under reduced pressure at a temperature not more than 25° C. In ether was dissolved the residue and the mixture was washed with saturated brine solution, dried and distilled away under reduced pressure to give 157 mg of (3R,5S)-6-[(3,5-di-tert-butyl-4-hydroxyphenyl)thio]-3,5-dihydroxyhexanoic acid. Thereto was added 3.9 ml (0.389 mmol) of 0.1 N sodium hydroxide which was ice-cooled, washed with ether and freeze-dried to give 151 mg of the desired compound (yield: 89%).

reactant | acetonitrile | 0.409 mmol, 150 mg | C(C)#N | C2H3N
reactant | (4R,6S)-6-[[(3,5-di-tert-butyl-4-hydroxyphenyl)thio]methyl]-4-hydroxytetrahydropyrane-2-one | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC[C@@H]1C[C@H](CC(O1)=O)O | C20H30O4S
reactant | lithium hydroxide | 1N, 0.98 ml | [OH-].[Li+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | (3R,5S)-6-[(3,5-di-tert-butyl-4-hydroxyphenyl)thio]-3,5-dihydroxyhexanoic acid | 157 mg | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC[C@H](C[C@H](CC(=O)O)O)O | C20H32O5S
